2108-12-21 09:46:00 Physician Attending Progress Note
Chief Complaint: meningitis, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   46 yo women presented on [**12-19**] with headache at OSH.  Had CT that was
   normal and was sent home.
   12 hours later, found altered and agitated.  T102  WBC 27.  CT again
   negative.  LP WBC 7K WBC.  Stain with GPCs.  Got vanco and
   chloramphenicol due to med allergies.  Was intubated at OSH and came
   here.  In ED here, got ampicllin,CTX,acyclovir,vanco, and got
   dexamethsone.
   24 Hour Events:
 MULTI LUMEN - START [**2108-12-21**] 03:03 AM
 INVASIVE VENTILATION - START [**2108-12-21**] 03:11 AM
   Allergies:
   Tetracycline
   Unknown;
   Penicillins
   Rash;
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Clindamycin
   Rash;
   Cephalosporins
   Rash;
   Macrolide Antibiotics
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2108-12-21**] 06:14 AM
   Vancomycin - [**2108-12-21**] 08:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Other medications:
   hep s/q
   dexamethasone
   SSI
   CTX
   ampicillin
   Changes to medical and family history:
   home meds;
   Oxycodone
   neurontin
   sertraline
   h/o aneurysm clipping
   shX: 1 drink/night
   smoker.
   FHX: NC for meningitis.
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Signs or concerns for abuse
   Flowsheet Data as of  [**2108-12-21**] 09:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 111 (100 - 117) bpm
   BP: 97/50(61) {97/50(61) - 125/71(83)} mmHg
   RR: 22 (16 - 26) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             985 mL
   PO:
             TF:
   IVF:
   985 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    677 mL
   Urine:
   677 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    308 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   PEEP: 5 cmH2O
   FiO2: 70%
   RSBI Deferred: FiO2 > 60%
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   SpO2: 94%
   ABG: 7.43/34/188/21/0
   Ve: 11.2 L/min
   PaO2 / FiO2: 269
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, +nuchal rigidity
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : left base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, +kernig's rigidity
   Skin:  Warm, ecchymosis over hands legs, arms
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   179 K/uL
   158 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.7 mEq/L
   11 mg/dL
   103 mEq/L
   137 mEq/L
   32.8 %
   19.0 K/uL
        [image002.jpg]
                             [**2108-12-21**]  03:00 AM
                             [**2108-12-21**]  03:39 AM
   WBC
   19.0
   Hct
   32.8
   Plt
   179
   Cr
   0.9
   TCO2
   23
   Glucose
   158
   Other labs: PT / PTT / INR:15.8/30.6/1.4, Ca++:7.6 mg/dL, Mg++:1.1
   mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
 MENINGITIS, BACTERIAL
 PNEUMONIA, ASPIRATION
 IMPAIRED SKIN INTEGRITY
   Bacterial meningitis: Follow up on OSH results, likely pneumococcus
   given concurrent PNA and gram stain.
   continue decadron.
   respiratory failure:  significant hypoxemic, so unlikely to wean.
   Will try and wean FiO2.
   nutrition:  NPO for now.
   Social work for concern for abuse given ecchymosis.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-12-21**] 03:03 AM
   18 Gauge - [**2108-12-21**] 03:05 AM
   20 Gauge - [**2108-12-21**] 04:05 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2108-12-22 08:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2108-12-21**] 04:00 PM
 FEVER - 101.8
F - [**2108-12-21**] 08:00 PM
   ID - d/c ampicillin and acyclovir, consider obtaining [**Hospital1 **] records
   re: head surgery, no precautions needed
   SBP dropped to high 70s, started on levophed mid-day of [**12-21**] when BP
   wasn
t responsive to fluid boluses.
   Allergies:
   Tetracycline
   Unknown;
   Penicillins
   Rash;
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Clindamycin
   Rash;
   Cephalosporins
   Rash;
   Macrolide Antibiotics
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2108-12-21**] 04:00 PM
   Ampicillin - [**2108-12-21**] 04:30 PM
   Vancomycin - [**2108-12-21**] 08:00 PM
   Ceftriaxone - [**2108-12-22**] 12:05 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2108-12-21**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2108-12-21**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-12-22**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.7
C (99.8
   HR: 85 (85 - 117) bpm
   BP: 110/66(81) {97/53(3) - 138/75(95)} mmHg
   RR: 24 (16 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 17 (5 - 17)mmHg
   Total In:
                                                                  8,730 mL
                                                                  1,326 mL
   PO:
   TF:
   IVF:
                                                                  3,510 mL
                                                                  1,326 mL
   Blood products:
   Total out:
                                                                  2,136 mL
                                                                    400 mL
   Urine:
                                                                  2,136 mL
                                                                    325 mL
   NG:
                                                                     75 mL
   Stool:
   Drains:
   Balance:
                                                                  6,594 mL
                                                                    926 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   Compliance: 46.7 cmH2O/mL
   SpO2: 94%
   ABG: 7.44/36/87.[**Numeric Identifier 181**]/21/0
   Ve: 12.8 L/min
   PaO2 / FiO2: 176
   Physical Examination
   GEN:
   CV
   PULM
   ABD
   EXTR
   Labs / Radiology
   201 K/uL
   9.9 g/dL
   167 mg/dL
   0.8 mg/dL
   21 mEq/L
   4.1 mEq/L
   13 mg/dL
   108 mEq/L
   138 mEq/L
   30.1 %
   21.2 K/uL
        [image002.jpg]
                             [**2108-12-21**]  03:00 AM
                             [**2108-12-21**]  03:39 AM
                             [**2108-12-21**]  05:08 PM
                             [**2108-12-21**]  08:08 PM
                             [**2108-12-22**]  03:38 AM
   WBC
   19.0
   21.2
   Hct
   32.8
   30.1
   Plt
   179
   201
   Cr
   0.9
   0.8
   TCO2
   23
   23
   24
   Glucose
   158
   208
   167
   Other labs: PT / PTT / INR:15.8/30.6/1.4, Lactic Acid:2.0 mmol/L,
   Ca++:8.2 mg/dL, Mg++:2.6 mg/dL, PO4:1.1 mg/dL
   Assessment and Plan
 SHOCK, SEPTIC
 MENINGITIS, BACTERIAL
 PNEUMONIA, ASPIRATION
 IMPAIRED SKIN INTEGRITY
   ASSESSMENT/PLAN: 46 yoF presenting with 24-26 hours of HA, N/V and
   found to have evidence of bacterial menigitis on OSH w/u of agitation
   and latered MS.
   .
   #. ALTERED MENTAL STATUS: no tox screen in records sent; LP on oral
   report only though seems c/w bacterial meningitis.  Head CT negative at
   OSH. Gram positive cocci, appears to be hinting at strep pneumo as
   causative.
   -- will treat empirically for bacterial meningitis with vancomycin 1 g
   IV BID, ceftriaxone 2 g IV BID
   -- per ID, discontinue ampicillin 2 mg IV q6h and acyclovir
   -- will monitor closely for drug rxn (known allergies of rash,
   discussed with ID in ED, on decadron)
   -- cont decadron 10 mg IV Q6 hours x 4 days for possible Strep pneumo
   menigitis
   -- contact precautions while ruling out Neisseria meningitis
 d/c
   -- will send tox screens
 urine and serum
   -- BCx x 2
   -- f/u CSF cx from OSH
   -- hold home amitriptylline for now
   .
   #. RESPIRATORY STATUS: was on vent for "airway protection" with altered
   MS; will try to wean as tolerated; should be able to lighten and
   possible extubate this morning
   .
   #. POSSIBLE LLL PNEUMONIA: may blossom more; mother denied [**Name2 (NI) **] with
   HA; may be aspiration event if she was found altered/down.
   -- empiric coverage as above should cover (though not great for
   anaerobes, but ok to not cover for now)
   -- may prove a little harder to wean if PNA develops
   -- will check for influenza; f/u DFA
   .
   #. UTI: likley given dirty UA
   -- f/u UCx from  OSH
   .
   #. QTC PROLONGATION ON OSH EKG:
   -- Repeat EKG
   -- monitor for QTc prolonging meds
   .
   #. METFORMIN: unclear why on metformin, whether from DM or PCOS
   -- will place on SSI, hold metformin
   -- will check Hb A1C
   .
   #. HOME MEDS: will hold gabapentin, ativan, oxycodone; cont sertraline
   (though need to confirm dose)
   .
   #. NUTRITION: NPO for now; gentle IVF
   #. ACCESS: right IJ from OSH; right antecube, 2 x PIV placed here
   -- pull right IJ today and replace
   .
   #. CODE: full code
   .
   #. DISPO: to remain in ICU for extubation
   ICU Care
   Lines:
   Multi Lumen - [**2108-12-21**] 03:03 AM
   18 Gauge - [**2108-12-21**] 03:05 AM
   20 Gauge - [**2108-12-21**] 04:05 AM
   Arterial Line - [**2108-12-21**] 04:00 PM

2108-12-22 14:43:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   46 yr old with likely pneumococcal meningitis. Hx of coils in brain,
   with meningitis postop years ago
   24 Hour Events:
 ARTERIAL LINE - START [**2108-12-21**] 04:00 PM
 FEVER - 101.8
F - [**2108-12-21**] 08:00 PM
   GPC in CSF, acyclovir d/c'd
   SBP dropped yesterday, levophed started
   T 102.4
   Allergies:
   Tetracycline
   Unknown;
   Penicillins
   Rash;
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Clindamycin
   Rash;
   Cephalosporins
   Rash;
   Macrolide Antibiotics
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2108-12-21**] 04:00 PM
   Ampicillin - [**2108-12-21**] 04:30 PM
   Vancomycin - [**2108-12-22**] 08:08 AM
   Ceftriaxone - [**2108-12-22**] 12:36 PM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2108-12-22**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-12-22**] 02:41 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 39.1
C (102.4
   HR: 92 (85 - 106) bpm
   BP: 92/56(68) {92/53(3) - 138/75(95)} mmHg
   RR: 12 (12 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 13 (5 - 18)mmHg
   Total In:
                                                                  8,730 mL
                                                                  2,916 mL
   PO:
   TF:
   IVF:
                                                                  3,510 mL
                                                                  2,806 mL
   Blood products:
   Total out:
                                                                  2,136 mL
                                                                    615 mL
   Urine:
                                                                  2,136 mL
                                                                    510 mL
   NG:
                                                                    105 mL
   Stool:
   Drains:
   Balance:
                                                                  6,594 mL
                                                                  2,301 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   Compliance: 42.7 cmH2O/mL
   SpO2: 94%
   ABG: 7.44/36/87.[**Numeric Identifier 181**]/21/0
   Ve: 12.8 L/min
   PaO2 / FiO2: 176
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   201 K/uL
   167 mg/dL
   0.8 mg/dL
   21 mEq/L
   4.1 mEq/L
   13 mg/dL
   108 mEq/L
   138 mEq/L
   30.1 %
   21.2 K/uL
        [image002.jpg]
                             [**2108-12-21**]  03:00 AM
                             [**2108-12-21**]  03:39 AM
                             [**2108-12-21**]  05:08 PM
                             [**2108-12-21**]  08:08 PM
                             [**2108-12-22**]  03:38 AM
   WBC
   19.0
   21.2
   Hct
   32.8
   30.1
   Plt
   179
   201
   Cr
   0.9
   0.8
   TCO2
   23
   23
   24
   Glucose
   158
   208
   167
   Other labs: PT / PTT / INR:15.8/30.6/1.4, Lactic Acid:2.0 mmol/L,
   Ca++:8.2 mg/dL, Mg++:2.6 mg/dL, PO4:1.1 mg/dL
   Microbiology: CSF + GPC at OSH
   Assessment and Plan
 SHOCK, SEPTIC
 MENINGITIS, BACTERIAL
 PNEUMONIA, ASPIRATION
 IMPAIRED SKIN INTEGRITY
   Bacterial meningitis: likely pneumococcal given PNA and GPC on gram
   stain. F/u on cultures. continue decadron, ceftriax/vanc.
   Acute respiratory failure:  significant hypoxemic due to pneuomonia.
   Decrease sedation, consider switch to propofol.
   Nutrition:  NPO for now.
   Social work for concern for abuse given ecchymosis.
   ICU Care
   Nutrition: start TF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2108-12-21**] 03:03 AM
   18 Gauge - [**2108-12-21**] 03:05 AM
   20 Gauge - [**2108-12-21**] 04:05 AM
   Arterial Line - [**2108-12-21**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2108-12-22 18:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2108-12-21**] 04:00 PM
 FEVER - 101.8
F - [**2108-12-21**] 08:00 PM
   ID - d/c ampicillin and acyclovir, consider obtaining [**Hospital1 **] records
   re: head surgery, no precautions needed
   SBP dropped to high 70s, started on levophed mid-day of [**12-21**] when BP
   wasn
t responsive to fluid boluses.
   Allergies:
   Tetracycline
   Unknown;
   Penicillins
   Rash;
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Clindamycin
   Rash;
   Cephalosporins
   Rash;
   Macrolide Antibiotics
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2108-12-21**] 04:00 PM
   Ampicillin - [**2108-12-21**] 04:30 PM
   Vancomycin - [**2108-12-21**] 08:00 PM
   Ceftriaxone - [**2108-12-22**] 12:05 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2108-12-21**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2108-12-21**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-12-22**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.7
C (99.8
   HR: 85 (85 - 117) bpm
   BP: 110/66(81) {97/53(3) - 138/75(95)} mmHg
   RR: 24 (16 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 17 (5 - 17)mmHg
   Total In:
                                                                  8,730 mL
                                                                  1,326 mL
   PO:
   TF:
   IVF:
                                                                  3,510 mL
                                                                  1,326 mL
   Blood products:
   Total out:
                                                                  2,136 mL
                                                                    400 mL
   Urine:
                                                                  2,136 mL
                                                                    325 mL
   NG:
                                                                     75 mL
   Stool:
   Drains:
   Balance:
                                                                  6,594 mL
                                                                    926 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   Compliance: 46.7 cmH2O/mL
   SpO2: 94%
   ABG: 7.44/36/87.[**Numeric Identifier 181**]/21/0
   Ve: 12.8 L/min
   PaO2 / FiO2: 176
   Physical Examination
   GEN: intubated, sedated
   CV: +S1/S2, no M/R/G
   PULM: CTAB, no wheezes crackles or ronchi in anterior lung fields
   ABD:  +BS, NT/ND
   EXT: no c/c/e, +2 distal pulses
   Labs / Radiology
   201 K/uL
   9.9 g/dL
   167 mg/dL
   0.8 mg/dL
   21 mEq/L
   4.1 mEq/L
   13 mg/dL
   108 mEq/L
   138 mEq/L
   30.1 %
   21.2 K/uL
        [image002.jpg]
                             [**2108-12-21**]  03:00 AM
                             [**2108-12-21**]  03:39 AM
                             [**2108-12-21**]  05:08 PM
                             [**2108-12-21**]  08:08 PM
                             [**2108-12-22**]  03:38 AM
   WBC
   19.0
   21.2
   Hct
   32.8
   30.1
   Plt
   179
   201
   Cr
   0.9
   0.8
   TCO2
   23
   23
   24
   Glucose
   158
   208
   167
   Other labs: PT / PTT / INR:15.8/30.6/1.4, Lactic Acid:2.0 mmol/L,
   Ca++:8.2 mg/dL, Mg++:2.6 mg/dL, PO4:1.1 mg/dL
   Assessment and Plan
 SHOCK, SEPTIC
 MENINGITIS, BACTERIAL
 PNEUMONIA, ASPIRATION
 IMPAIRED SKIN INTEGRITY
   ASSESSMENT/PLAN: 46 yoF presenting with 24-26 hours of HA, N/V and
   found to have evidence of bacterial meningitis on OSH w/u of agitation
   and altered MS.
   .
   #. ALTERED MENTAL STATUS: +Bacterial Meningitis confirmed from OSH,
   culture now growing Group B strep
   -- cont ceftriaxone 2 g IV BID for group B strep
   -- d/c acyclovir, Vanco, Ampicillin
   -- will monitor closely for drug rxn (known allergies of rash,
   discussed with ID in ED, on decadron)
   -- d/c decadron
   -- d/c contact precautions (no Neisseria in CSF)
   -- f/u final CSF cultures
   -- f/u Blood cultures
   .
   #. Pneumonia: was on vent for "airway protection" with altered MS;
   however, CXR also showing PNA which possibly related to Group B strep.
   - cont CTX
   - if spikes or decompensates will broaden coverage to treat CAP vs
   aspiration PNA but likely due to group b strep
   #. UTI: patient with UTI on UA from OSH
   -- cont CTX
   -- f/u UCx from  OSH
   #. QTC PROLONGATION ON OSH EKG: None here
   -- monitor QTC
   #. METFORMIN: unclear why on metformin, whether from DM or PCOS
   - will place on SSI, hold metformin
   #. HOME MEDS: will hold gabapentin, ativan, oxycodone; cont sertraline
   (though need to confirm dose)
   #. NUTRITION: Nutrition consult, start TF
   #. ACCESS: right IJ from OSH; right antecube, 2 x PIV placed here
   -- hold on removing right IJ as patient not on pressors, can consider
   starting PICC tomorrow
   .
   #. CODE: full code
   .
   #. DISPO: ICU for now
   ICU Care
   Lines:
   Multi Lumen - [**2108-12-21**] 03:03 AM
   18 Gauge - [**2108-12-21**] 03:05 AM
   20 Gauge - [**2108-12-21**] 04:05 AM
   Arterial Line - [**2108-12-21**] 04:00 PM

2108-12-23 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2108-12-22**] 08:09 AM
 FEVER - 102.4
F - [**2108-12-22**] 12:00 PM
   -ID: likely GBS.  Stopped Vanco and steroids.  Cont CTX.
   - Given concern for hypotension and fever, restarted Vanco and added
   Azitho for CAP.
   -start TF
   -RIJ should be replaced if temp curves down and no more episodes of
   hypotension.
   - Lasix 20mg IV x 1 given as UOP decreased and CVP 18
   Allergies:
   Tetracycline
   Unknown;
   Penicillins
   Rash;
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Clindamycin
   Rash;
   Cephalosporins
   Rash;
   Macrolide Antibiotics
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2108-12-21**] 04:00 PM
   Ampicillin - [**2108-12-21**] 04:30 PM
   Ceftriaxone - [**2108-12-23**] 12:13 AM
   Azithromycin - [**2108-12-23**] 02:05 AM
   Vancomycin - [**2108-12-23**] 03:57 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2108-12-22**] 04:11 PM
   Furosemide (Lasix) - [**2108-12-23**] 03:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-12-23**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 38.1
C (100.6
   HR: 79 (76 - 97) bpm
   BP: 121/71(88) {90/49(62) - 145/80(102)} mmHg
   RR: 24 (12 - 24) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96 kg (admission): 94.1 kg
    CVP: 14 (13 - 20)mmHg
   Total In:
                                                                  3,613 mL
                                                                  1,571 mL
   PO:
   TF:
                                                                     19 mL
                                                                    121 mL
   IVF:
                                                                  3,484 mL
                                                                  1,451 mL
   Blood products:
   Total out:
                                                                    845 mL
                                                                  1,210 mL
   Urine:
                                                                    740 mL
                                                                  1,210 mL
   NG:
                                                                    105 mL
   Stool:
   Drains:
   Balance:
                                                                  2,768 mL
                                                                    361 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   SpO2: 92%
   ABG: 7.46/31/81.[**Numeric Identifier 508**]//0
   Ve: 12.6 L/min
   PaO2 / FiO2: 164
   Physical Examination
   Cardiovascular: GENERAL: sedated, intuabed
   HEENT: slight scleral edema laterally, [**Last Name (un) **]
   LUNGS: CTA anteriorly
   CARDIO: RR, no m/r/g
   ABD: somewhat obese, non-distended
   EXTREMITIES: no edema
   SKIN: non-blanching echymotic pacthes on her right MTP joints as well
   as dorsal surface of hand (outlined in pen by nurse; new per mother);
   also similar marks on dorsal medial right forearm. No petechiae
   throughout, no other rashes.
   NEURO: sedated, intuabed
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   269 K/uL
   9.4 g/dL
   167 mg/dL
   0.8 mg/dL
   21 mEq/L
   4.1 mEq/L
   13 mg/dL
   108 mEq/L
   138 mEq/L
   28.8 %
   17.1 K/uL
        [image002.jpg]
                             [**2108-12-21**]  03:00 AM
                             [**2108-12-21**]  03:39 AM
                             [**2108-12-21**]  05:08 PM
                             [**2108-12-21**]  08:08 PM
                             [**2108-12-22**]  03:38 AM
                             [**2108-12-22**]  04:10 PM
                             [**2108-12-22**]  10:07 PM
                             [**2108-12-23**]  06:07 AM
   WBC
   19.0
   21.2
   17.1
   Hct
   32.8
   30.1
   28.8
   Plt
   179
   201
   269
   Cr
   0.9
   0.8
   TCO2
   23
   23
   24
   23
   23
   Glucose
   158
   208
   167
   167
   Other labs: PT / PTT / INR:15.8/30.6/1.4, Lactic Acid:2.0 mmol/L,
   Ca++:8.2 mg/dL, Mg++:2.6 mg/dL, PO4:1.1 mg/dL
   Imaging: AM CXR pending
   Microbiology: Sputum cx negative.
   OSH suggests GBS.  Final results should return today.
   Assessment and Plan
   ASSESSMENT/PLAN: 46 yoF presenting with 24-26 hours of HA, N/V and
   found to have evidence of bacterial menigitis on OSH w/u of agitation
   and latered MS.
   .
   #. ALTERED MS: no tox screen in records sent; LP on oral report only
   though seems c/w bacterial meningitis. Head CT negative at OSH.
   -- will treat empirically for bacterial meningitis with ceftriaxone 2 g
   IV QD,
   -- will monitor closely for drug rxn (known allergies of rash,
   discussed with ID in ED, on decadron)
   -- cont decadron 10 mg IV Q6 hours x 6 days for possible Strep pneumo
   menigitis
   -- will also treat empirically for viral menigitis with acyclovir
   -- contact precautions while ruling out Neisseria meningitis
   -- will send tox screens
   -- BCx x 2
   -- f/u CSF cx from OSH
   -- hold home amitriptylline for now
   .
   #. RESPIRATORY STATUS: was on vent for "airway protection" with altered
   MS; will try to wean as tolerated; should be able to lighten and
   possible extubate this morning
   .
   #. POSSIBLE LLL PNEUMONIA: may blossom more; mother denied [**Name2 (NI) **] with
   HA; may be aspiration event if she was found altered/down.
   -- Added Azitho on [**11-22**] and continuing Vanco since [**11-20**]
   .
   #. UTI: likley given dirty UA
   -- f/u UCx from OSH
   .
   #. QTC PROLONGATION ON OSH EKG:
   - resolved
   - check ECG priro to QTC prolonging medications
   .
   #. METFORMIN: unclear why on metformin, whether from DM or PCOS
   -- will place on SSI, hold metformin
   -- will check Hb A1C
   .
   #. HOME MEDS: will hold gabapentin, ativan, oxycodone; cont sertraline
   (though need to confirm dose)
   .
   #. NUTRITION: NPO for now; gentle IVF
   #. ACCESS: right IJ from OSH; right antecube, 2 x PIV placed here
   -- pull right IJ today , replace central line
   .
   #. CODE: full code
   .
   #. DISPO: to remain in ICU for extubation
   ************
   Fire department/EMS was exposed to patient in ambulance without masks:
   [**Telephone/Fax (1) 11942**]
   [**First Name8 (NamePattern2) 3139**] [**Last Name (NamePattern1) **] (he is immunosuppressed)
   Wondering about prophylaxis for him and his crew - called and told him
   no prophylaxis necessary, contact precautions pulled off, per ID.
   ID - d/c ampicillin and acyclovir, obtain [**Hospital1 **] records re: head
   surgery, no precautions needed
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2108-12-22**] 10:05 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-12-21**] 03:03 AM
   18 Gauge - [**2108-12-21**] 03:05 AM
   20 Gauge - [**2108-12-21**] 04:05 AM
   Arterial Line - [**2108-12-21**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2108-12-23 16:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   46 yr old, bacterial meningitis
   24 Hour Events:
 SPUTUM CULTURE - At [**2108-12-22**] 08:09 AM
 FEVER - 102.4
F - [**2108-12-22**] 12:00 PM
   By culture from OSH, confirmed pansensitive Group B strep.
   Abx were tapered to ceftriaxone/azithro continued, vancomycin readded
   with fever
   Right IJ pulled, picc placed
   For low u/o, cvp 18, given lasix
   Didn't tolerate PSV earlier, was biting on tube and dysynchronous
   Allergies:
   Tetracycline
   Unknown;
   Penicillins
   Rash;
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Clindamycin
   Rash;
   Cephalosporins
   Rash;
   Macrolide Antibiotics
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2108-12-21**] 04:00 PM
   Ampicillin - [**2108-12-21**] 04:30 PM
   Azithromycin - [**2108-12-23**] 02:05 AM
   Vancomycin - [**2108-12-23**] 03:57 AM
   Ceftriaxone - [**2108-12-23**] 12:00 PM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2108-12-23**] 03:03 AM
   Heparin Sodium (Prophylaxis) - [**2108-12-23**] 09:00 AM
   Pantoprazole (Protonix) - [**2108-12-23**] 12:00 PM
   Other medications:
   Abx - CFTX/azithro
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-12-23**] 04:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.2
C (99
   HR: 91 (74 - 97) bpm
   BP: 161/87(111) {90/49(62) - 161/87(111)} mmHg
   RR: 15 (13 - 24) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96 kg (admission): 94.1 kg
   Height: 65 Inch
   CVP: 8 (8 - 18)mmHg
   Total In:
                                                                  3,613 mL
                                                                  2,356 mL
   PO:
   TF:
                                                                     19 mL
                                                                    428 mL
   IVF:
                                                                  3,484 mL
                                                                  1,787 mL
   Blood products:
   Total out:
                                                                    845 mL
                                                                  1,460 mL
   Urine:
                                                                    740 mL
                                                                  1,460 mL
   NG:
                                                                    105 mL
   Stool:
   Drains:
   Balance:
                                                                  2,768 mL
                                                                    896 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 800 (800 - 800) mL
   PS : 5 cmH2O
   RR (Set): 24
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 15 cmH2O
   Plateau: 23 cmH2O
   SpO2: 90%
   ABG: 7.46/31/97/21/0
   Ve: 12.2 L/min
   PaO2 / FiO2: 194
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), no murmurs
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present),
   Respiratory / Chest: (Breath Sounds: Clear : ant/lat)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, no rashes
   Neurologic: No(t) Follows simple commands, but minimally arousable
   Labs / Radiology
   9.4 g/dL
   269 K/uL
   189 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.9 mEq/L
   20 mg/dL
   109 mEq/L
   141 mEq/L
   28.8 %
   17.1 K/uL
        [image002.jpg]
                             [**2108-12-21**]  03:00 AM
                             [**2108-12-21**]  03:39 AM
                             [**2108-12-21**]  05:08 PM
                             [**2108-12-21**]  08:08 PM
                             [**2108-12-22**]  03:38 AM
                             [**2108-12-22**]  04:10 PM
                             [**2108-12-22**]  10:07 PM
                             [**2108-12-23**]  06:07 AM
                             [**2108-12-23**]  12:31 PM
   WBC
   19.0
   21.2
   17.1
   Hct
   32.8
   30.1
   28.8
   Plt
   179
   201
   269
   Cr
   0.9
   0.8
   0.8
   TCO2
   23
   23
   24
   23
   23
   23
   Glucose
   158
   208
   167
   167
   189
   Other labs: PT / PTT / INR:15.8/30.6/1.4, Lactic Acid:2.0 mmol/L,
   Ca++:8.2 mg/dL, Mg++:2.6 mg/dL, PO4:1.1 mg/dL
   Imaging: CXR ETT, OG good position. No infiltrates. PICC appears in
   good place but need to redo xray to confirm
   Assessment and Plan
 SHOCK, SEPTIC
 MENINGITIS, BACTERIAL
 PNEUMONIA, ASPIRATION
 IMPAIRED SKIN INTEGRITY
   GBS meningitis: continue ceftriax/azithro.
   GBS urosepsis: not on pressors
   Acute respiratory failure:  significant hypoxemic, no obvious evidence
   of pneuomonia but suspect airspace disease given Aa gradient. Consider
   PE but less likely. [**Month (only) 51**] need CTA. C/w propofol for sedation.
   Nutrition:  tube feeds
   Consider social work for concern for abuse given ecchymoses.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2108-12-23**] 10:10 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2108-12-21**] 03:05 AM
   20 Gauge - [**2108-12-21**] 04:05 AM
   Arterial Line - [**2108-12-21**] 04:00 PM
   PICC Line - [**2108-12-23**] 03:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: >30 degrees
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2108-12-24 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2108-12-23**] 03:00 PM
 PICC LINE - START [**2108-12-23**] 03:08 PM
 FEVER - 101.4
F - [**2108-12-24**] 12:00 AM
   - confirmed with mom & sister that ADR to penicillin was rash.
   - per ID switched ABX to Pen G.
   - ID recs: GYN eval when clinically stable, f/u OSH BCx ([**Telephone/Fax (1) 11953**])
   - if +, need TEE to r/o Austrian syndrome
   - OSH BCx - negative as of [**12-23**]
   - pt difficult to wean from sedation, desat, increased sedation and
   resumed AC overnight, ordered CTA chest
   - CTA chest: b/l pleural effusions, b/l PNA, no PE
   - switched Abx from [**Doctor Last Name **] and Azithro to Vanc/Cefepime/Cipro to cover
   HAP and the GBS meningitis
   - PEEP increased to 12, decrease tidal volume to 450; pt continued to
   be dysynchronous and switched to SIMV
   - abdominal distension, no BM since admission, hypoactive bowel sounds,
   KUB done
   Allergies:
   Tetracycline
   Unknown;
   Penicillins
   Rash;
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Clindamycin
   Rash;
   Cephalosporins
   Rash;
   Macrolide Antibiotics
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2108-12-21**] 04:00 PM
   Ampicillin - [**2108-12-21**] 04:30 PM
   Azithromycin - [**2108-12-23**] 02:05 AM
   Ceftriaxone - [**2108-12-23**] 12:00 PM
   Ciprofloxacin - [**2108-12-24**] 12:40 AM
   Cefipime - [**2108-12-24**] 02:15 AM
   Vancomycin - [**2108-12-24**] 03:57 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2108-12-23**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2108-12-23**] 06:00 PM
   Furosemide (Lasix) - [**2108-12-23**] 09:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-12-24**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38
C (100.4
   HR: 75 (69 - 93) bpm
   BP: 107/60(73) {100/52(68) - 165/87(111)} mmHg
   RR: 14 (8 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98 kg (admission): 94.1 kg
   Height: 65 Inch
    CVP: 8 (8 - 14)mmHg
   Total In:
                                                                  3,938 mL
                                                                    733 mL
   PO:
   TF:
                                                                    715 mL
                                                                     16 mL
   IVF:
                                                                  2,713 mL
                                                                    717 mL
   Blood products:
   Total out:
                                                                  2,485 mL
                                                                    800 mL
   Urine:
                                                                  2,485 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,453 mL
                                                                    -67 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV
   Vt (Set): 450 (450 - 500) mL
   Vt (Spontaneous): 1,032 (661 - 1,032) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   Plateau: 26 cmH2O
   Compliance: 75 cmH2O/mL
   SpO2: 94%
   ABG: 7.45/32/80.[**Numeric Identifier 176**]/24/0
   Ve: 9 L/min
   PaO2 / FiO2: 133
   Physical Examination
   GENERAL: sedated, intuabed
   HEENT: slight scleral edema laterally, [**Last Name (un) **]
   LUNGS: CTA anteriorly
   CARDIO: RR, no m/r/g
   ABD: somewhat obese, non-distended
   EXTREMITIES: no edema
   SKIN: non-blanching ecchymotic pacthes on her right MTP joints as well
   as dorsal surface of hand (outlined in pen by nurse; new per mother);
   also similar marks on dorsal medial right forearm. No petechiae
   throughout, no other rashes.
   Labs / Radiology
   287 K/uL
   9.2 g/dL
   209 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.9 mEq/L
   21 mg/dL
   108 mEq/L
   142 mEq/L
   28.5 %
   17.3 K/uL
        [image002.jpg]
                             [**2108-12-23**]  06:07 AM
                             [**2108-12-23**]  12:31 PM
                             [**2108-12-23**]  04:36 PM
                             [**2108-12-23**]  05:59 PM
                             [**2108-12-23**]  08:57 PM
                             [**2108-12-23**]  10:14 PM
                             [**2108-12-23**]  10:25 PM
                             [**2108-12-24**]  12:51 AM
                             [**2108-12-24**]  04:06 AM
                             [**2108-12-24**]  04:23 AM
   WBC
   17.1
   17.3
   Hct
   28.8
   28.5
   Plt
   269
   287
   Cr
   0.8
   0.9
   0.9
   TCO2
   23
   22
   25
   26
   26
   25
   23
   Glucose
   189
   164
   153
   209
   Other labs: PT / PTT / INR:15.8/30.6/1.4, Lactic Acid:1.2 mmol/L,
   Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:2.4 mg/dL
   CXR:
   Opacification in the retrocardiac region is consistent with atelectasis
   with blunting of the costophrenic angles, suggesting pleural effusion.
   In view of the clinical history, the possibility of supervening
   pneumonia must be considered.
   CTA chest: (wet read)
   1. Slightly suboptimal bolus. No central of segmental PE. No acute
   aortic pathology.
   2. Bilateral pleural effusions, small on the right and mild on the left
   3. Bibasilar consolidation with air-bronchogram. Concerning for PNA vs
   aspiration.
   Assessment and Plan
   46 yoF presenting with 24-26 hours of HA, N/V and found to have
   evidence of bacterial menigitis on OSH w/u of agitation and labored
   MS.
   .
   #. Group B Strep Meningitis: Pan-sensitive on OSH cultures. Was on
   Ceftriaxone, switched to [**Doctor Last Name **], but had increased O2 requirement and
   persistent fevers [**12-23**] and switched to broad spectrum Abx
   Vanc/Cefepime/Cipro
   - f/u ID recs
   - f/u OSH cultures
   #. RESPIRATORY STATUS: was on vent for "airway protection" with altered
   MS; had increasing O2 requirement and was fighting the vent yesterday.
   Likely components of PNA and fluid overload influencing respiratory
   status. ABG improved on current settings.
   - wean as tolerated
   - wean Fentanyl
   - goal to extubate in AM
   - continue diuresis with Lasix boluses for net negative 2L
   #. B/L PNEUMONIA: B/L PNA seen on CTA chest. Sputum culture sent.
   - f/u sputum culture, keep GNR coverage if GNR seen on gram stain
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] Legionella
   - reconcile Abx
   - f/u ID recs
   #. UTI: GBS, on broad spectrum Abx.
   .
   #. QTC PROLONGATION ON OSH EKG:
   - resolved
   - check ECG prior to QTC prolonging medications
   .
   #. METFORMIN: unclear why on metformin, whether from DM or PCOS. HbA1C
   6.0.
   -- continue SSI, hold metformin
   .
   #. HOME MEDS: will hold gabapentin, ativan, oxycodone; cont sertraline
   (though need to confirm dose)
   - f/u with PCP regarding [**Name9 (PRE) **] and medications
   #. NUTRITION: TF
   #. ACCESS: L PICC
   # PPX
 DVT: Heparin SC
   .             Bowel: Colace, Senna, Bisacodyl
   #. CODE: full code
   .
   #. DISPO: ICU while intubated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2108-12-21**] 03:05 AM
   20 Gauge - [**2108-12-21**] 04:05 AM
   Arterial Line - [**2108-12-21**] 04:00 PM
   PICC Line - [**2108-12-23**] 03:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2108-12-25 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2108-12-24**] 09:00 AM
 FEVER - 102.0
F - [**2108-12-24**] 09:00 PM
   - started lasix gtt: with approx - 2.5 L/ 24 hrs
   - changed PPI to famotidine to decrease risk of VAP
   - added bisacodyl PR to bowel regimen
   - per ID recs: d/ced cefepime/ clinda/ vanco and switced antibiotic
   coverage back to penicillin alone
   - ID requested pelvic US to look for "source" of GBS but US does not
   think useful
   - spiked to 102 (with acetaminophen ATC): blood cx x 2
   - Echo to evaluate for Austrian syndrome negative for vegetations
   Allergies:
   Tetracycline
   Penicillins
   Sulfa (Sulfonamide Antibiotics)
   Clindamycin
   Cephalosporins
   Macrolide Antibiotics
   Last dose of Antibiotics:
   Azithromycin - [**2108-12-23**] 02:05 AM
   Ceftriaxone - [**2108-12-23**] 12:00 PM
   Cefipime - [**2108-12-24**] 02:15 AM
   Vancomycin - [**2108-12-24**] 03:57 AM
   Ciprofloxacin - [**2108-12-24**] 12:30 PM
   Penicillin G potassium - [**2108-12-25**] 04:23 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Furosemide (Lasix) - 3 mg/hour
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2108-12-24**] 08:00 AM
   Furosemide (Lasix) - [**2108-12-24**] 10:15 AM
   Famotidine (Pepcid) - [**2108-12-24**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2108-12-24**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-12-25**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.2
C (100.8
   HR: 81 (76 - 106) bpm
   BP: 122/63(79) {107/60(75) - 150/77(101)} mmHg
   RR: 8 (6 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.5 kg (admission): 94.1 kg
   Height: 65 Inch
             Total In:
                                                                  2,792 mL
                                                                  1,096 mL
   PO:
             TF:
                                                                    196 mL
                                                                    176 mL
   IVF:
                                                                  2,426 mL
                                                                    840 mL
   Blood products:
   Total out:
                                                                  5,174 mL
                                                                  1,890 mL
   Urine:
                                                                  5,174 mL
                                                                  1,890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,382 mL
                                                                   -794 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 383 (383 - 383) mL
   PS : 0 cmH2O
   RR (Set): 0
   RR (Spontaneous): 9
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 11 cmH2O
   Plateau: 21 cmH2O
   SpO2: 97%
   ABG: 7.47/39/85.[**Numeric Identifier 126**]/27/5
   Ve: 5.2 L/min
   PaO2 / FiO2: 170
   Physical Examination
   GENERAL: sedated, intubated, opens eyes to verbal stimuli
   HEENT: slight scleral edema laterally, [**Last Name (un) **]
   LUNGS: CTA anteriorly
   CARDIO: RR, no m/r/g
   ABD: somewhat obese, non-distended
   EXTREMITIES: no edema
   SKIN: non-blanching ecchymotic patches on her right MTP joints as well
   as dorsal surface of hand (outlined in pen by nurse; new per mother);
   also similar marks on dorsal medial right forearm
 all improving. No
   petechiae throughout, no other rashes.
   Labs / Radiology
   355 K/uL
   10.2 g/dL
   170 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.5 mEq/L
   13 mg/dL
   102 mEq/L
   143 mEq/L
   31.8 %
   15.3 K/uL
        [image002.jpg]
                             [**2108-12-23**]  10:14 PM
                             [**2108-12-23**]  10:25 PM
                             [**2108-12-24**]  12:51 AM
                             [**2108-12-24**]  04:06 AM
                             [**2108-12-24**]  04:23 AM
                             [**2108-12-24**]  11:22 AM
                             [**2108-12-24**]  04:59 PM
                             [**2108-12-24**]  05:33 PM
                             [**2108-12-24**]  10:08 PM
                             [**2108-12-25**]  04:52 AM
   WBC
   17.3
   15.3
   Hct
   28.5
   31.8
   Plt
   287
   355
   Cr
   0.9
   0.9
   1.0
   1.0
   TCO2
   26
   25
   23
   24
   26
   31
   Glucose
   164
   153
   209
   146
   170
   Other labs: PT / PTT / INR:15.8/30.6/1.4, Lactic Acid:1.2 mmol/L,
   Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   MICRO:
   BCx x4
 NGTD
   Ucx
 negative
   Sputum Cx
 Yeast
   [**Last Name (un) **] Legionella
 negative
   IMAGING:
   KUB - Fluid-filled bowel loops without evidence of obstruction.
   ECHO
 EF>65%, preserved global and regional biventricular systolic
   function, no valvular pathology or pathologic flow identified
   Assessment and Plan
   46 yoF presenting with 24-26 hours of HA, N/V and found to have
   evidence of bacterial meningitis on OSH w/u of agitation and labored
   respiratory status.
   .
   #. Group B Strep Meningitis: Pan-sensitive on OSH cultures. Was on
   Ceftriaxone, switched to [**Doctor Last Name **], but had increased O2 requirement and
   persistent fevers [**12-23**] and switched to broad spectrum Abx
   Vanc/Cefepime/Cipro. Switched back to [**Doctor Last Name **] [**12-24**].
   - f/u ID recs
   - CT abdomen/pelvis with contrast to r/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **], pelvic thrombophlebitis
   as source of GBS
   #. RESPIRATORY STATUS: was on vent for "airway protection" with altered
   MS; had increasing O2 requirement and was fighting the vent 12/6.
   Likely components of PNA and fluid overload influencing respiratory
   status. Pt satting well on CPAP yesterday.
   - wean as tolerated
   - wean Fentanyl
   - goal to extubate today
   - I/O goal: net negative 1L
   - Lasix prn
   #. B/L PNEUMONIA: B/L PNA seen on CTA chest. Sputum culture with yeast.
   No evidence of VAP or hemodynamic instability, so pt switched back to
   [**Doctor Last Name **]. [**Last Name (un) **] Legionella negative.
   - f/u sputum culture
   - continue [**Doctor Last Name **]
   - f/u ID recs
   #. UTI: UCx positive from OSH. UCx negative here. GBS UTI: on [**Doctor Last Name **].
   .
   #. QTC PROLONGATION ON OSH EKG:
   - resolved
   - check ECG prior to QTC prolonging medications
   .
   #. METFORMIN: unclear why on metformin, whether from DM or PCOS. HbA1C
   6.0. FS 150s-170s.
   -- continue RISS, hold metformin
   .
   #. HOME MEDS: will hold gabapentin, ativan, oxycodone, sertraline
   - f/u with PCP regarding [**Name9 (PRE) **] and medications
   #. NUTRITION: TF
   #. ACCESS: L PICC
   # PPX
 DVT: Heparin SC
   .             Bowel: Colace, Senna, Bisacodyl, Famotidine
   #. CODE: full code
   .
   #. DISPO: ICU for now
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2108-12-25**] 03:17 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2108-12-21**] 04:00 PM
   PICC Line - [**2108-12-23**] 03:08 PM
   20 Gauge - [**2108-12-24**] 10:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2108-12-26 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - CT scan: No abscess or [**Last Name (un) **].  Simple L ovarian cyst.  Interval
   improvement in PNA.
   - MRI not done due to concern over what kind of coils pt has.  Needs
   records from [**Hospital1 609**].
   - 5mg diazepam q6h, ? benzo withdrawl, improved agitation
   - 7.43 46 89 32. attempting to wean. dropped FIO2 to 50, goal 40%, and
   PEEP to drop to 5 today.
   - episode of emesis 200cc while awake, no abd tenderness. given zofran
   X 1, TF held at 5:20am.
   Allergies:
   Tetracycline
   Penicillins
   Sulfa (Sulfonamide Antibiotics)
   Clindamycin
   Cephalosporins
   Macrolide Antibiotics
   Last dose of Antibiotics:
   Ceftriaxone - [**2108-12-23**] 12:00 PM
   Cefipime - [**2108-12-24**] 02:15 AM
   Vancomycin - [**2108-12-24**] 03:57 AM
   Ciprofloxacin - [**2108-12-24**] 12:30 PM
   Penicillin G potassium - [**2108-12-26**] 04:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2108-12-25**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2108-12-25**] 09:30 PM
   Fentanyl - [**2108-12-26**] 12:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-12-26**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.8
C (100.1
   HR: 93 (78 - 102) bpm
   BP: 156/75(100) {96/66(84) - 158/99(115)} mmHg
   RR: 10 (7 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.5 kg (admission): 94.1 kg
   Height: 65 Inch
             Total In:
                                                                  2,618 mL
                                                                    701 mL
   PO:
             TF:
                                                                    460 mL
                                                                    300 mL
   IVF:
                                                                  2,078 mL
                                                                    341 mL
   Blood products:
   Total out:
                                                                  4,265 mL
                                                                    800 mL
   Urine:
                                                                  4,265 mL
                                                                    600 mL
   NG:
   200 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,647 mL
                                                                    -99 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP
   PS : 0 cmH2O
   RR (Spontaneous): 11
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, Agitated
   PIP: 12 cmH2O
   SpO2: 98%
   ABG: 7.45/46/118/30/7
   Ve: 7.5 L/min
   PaO2 / FiO2: 236
   Physical Examination
   GENERAL: sedated, intubated, opens eyes to verbal stimuli
   HEENT: slight scleral edema laterally, [**Last Name (un) **]
   LUNGS: CTA anteriorly
   CARDIO: RR, no m/r/g
   ABD: somewhat obese, non-distended
   EXTREMITIES: no edema
   SKIN: non-blanching ecchymotic patches on her right MTP joints as well
   as dorsal surface of hand (outlined in pen by nurse; new per mother);
   also similar marks on dorsal medial right forearm
 all improving. No
   petechiae throughout, no other rashes.
   Labs / Radiology
   349 K/uL
   11.2 g/dL
   140 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.0 mEq/L
   10 mg/dL
   100 mEq/L
   138 mEq/L
   33.1 %
   18.7 K/uL
        [image002.jpg]
                             [**2108-12-24**]  11:22 AM
                             [**2108-12-24**]  04:59 PM
                             [**2108-12-24**]  05:33 PM
                             [**2108-12-24**]  10:08 PM
                             [**2108-12-25**]  04:52 AM
                             [**2108-12-25**]  08:24 AM
                             [**2108-12-25**]  05:08 PM
                             [**2108-12-26**]  02:56 AM
                             [**2108-12-26**]  03:09 AM
                             [**2108-12-26**]  06:48 AM
   WBC
   15.3
   18.7
   Hct
   31.8
   33.1
   Plt
   355
   349
   Cr
   1.0
   1.0
   0.7
   0.7
   TCO2
   24
   26
   31
   31
   32
   33
   Glucose
   146
   170
   115
   139
   140
   Other labs: PT / PTT / INR:15.8/30.6/1.4, Differential-Neuts:78.0 %,
   Band:0.0 %, Lymph:17.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.2
   mmol/L, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   MICRO:
   BCx x5
 NGTD
   Ucx
 negative
   Sputum Cx
 Yeast
   [**Last Name (un) **] Legionella
 negative
   IMAGING:
   CT abd/pelvis (prelim)
   1. No evidence of pelvic abscess or [**Last Name (un) **]. Small amount of free fluid in
   the pelvis.
   2. 2.8 cm simple left ovarian cyst
   3. Interval improvement in bibasilar consolidation with residual
   basilar airspace opacities concerning for infection. Stable small b/l
   pleural effusions
   CXR (prelim)
   Pulmonary edema. ET tube needs to be advanced 9cm. Air bronchograms
   improved from prior.
   Assessment and Plan
   46 yoF presenting with 24-26 hours of HA, N/V and found to have
   evidence of bacterial meningitis on OSH w/u of agitation and labored
   respiratory status.
   .
   #. Group B Strep Meningitis: Pan-sensitive on OSH cultures. Pt
   currently on [**Doctor Last Name **]. CT abdomen/pelvis negative for [**Last Name (un) **]. No source
   identified at this point.
   - f/u ID recs
 would like MR head to r/o phlegmon
   - f/u [**Hospital1 609**] records RE: brain coils for previous aneurysm surgery.
   Surgery done by Dr. [**First Name4 (NamePattern1) 2954**] [**Last Name (NamePattern1) **]
 4mm clips compatible with MRI. Office
   [**Telephone/Fax (1) 12021**]. Nurse [**Last Name (Titles) 1035**] [**Telephone/Fax (1) 12022**] pager [**Numeric Identifier 12023**].
   #. RESPIRATORY STATUS: was on vent for "airway protection" with altered
   MS; had increasing O2 requirement and was fighting the vent 12/6.
   Likely components of PNA and fluid overload influencing respiratory
   status. Pt satting well on CPAP yesterday. Agitation improved with
   addition of Diazepam.
   - wean as tolerated
   - wean Fentanyl
   - goal to extubate today
   - I/O goal: net negative 1L
   - Lasix prn
   #. B/L PNEUMONIA: B/L PNA seen on CTA chest. Sputum culture with yeast.
   No evidence of VAP or hemodynamic instability, so pt switched back to
   [**Doctor Last Name **]. [**Last Name (un) **] Legionella negative. Low threshold to start broad Abx for HAP.
   - f/u sputum culture
   - continue [**Doctor Last Name **]
   - f/u ID recs
   #. UTI: UCx positive from OSH. UCx negative here. GBS UTI: on [**Doctor Last Name **].
   .
   #. QTC PROLONGATION ON OSH EKG:
   - resolved
   - check ECG prior to QTC prolonging medications
   .
   #. METFORMIN: unclear why on metformin, whether from DM or PCOS. HbA1C
   6.0. FS 110s-150.
   -- continue RISS, hold metformin
   .
   #. HOME MEDS: will hold gabapentin, oxycodone, sertraline
   - f/u with PCP regarding [**Name9 (PRE) **] and medications
   #. NUTRITION: TF
   #. ACCESS: L PICC
   # PPX
 DVT: Heparin SC
   .             Bowel: Colace, Senna, Bisacodyl, Famotidine
   #. CODE: full code
   .
   #. DISPO: ICU for now
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2108-12-26**] 07:05 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2108-12-21**] 04:00 PM
   PICC Line - [**2108-12-23**] 03:08 PM
   20 Gauge - [**2108-12-24**] 10:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Attending note: Attending Note: I saw and examined the patient, and was
   physically present with Dr. [**Last Name (STitle) **] the key portions of the services
   provided. I agree with the note above, including the assessment and
   plan. I would emphasize and add the following points:
   CT was unremarkable with no pelvic abscess or [**Last Name (un) **]. Low grade fevers
   with no overt signs of new infection. Tolerated CPAP 10 cm overnight,
   SBT in AM. Good urine output, stable hemodynamics. Extubated
   uneventfully this morning. Currently 135/70, HR 94, Sat 94% on 50% O2
   mask. Awake, smiles, responds slowly, moves extremities x 4, lungs
   clear ant, no murmurs. Off pressors.
   Labs notable for persistent leukocytosis. No bands on yesterday
s diff.
   Hct, lytes, renal function stable. Last ABG 7.48/36/95.
   CXR with increased interstitial markings, no infiltrates.
   Impression
   GBS meningitis on Pen G. Source unclear, agree with MRI. Per [**Hospital1 609**]
   records, coils and clips for aneurysm all done in [**2103**]
 should be no
   contraindication for MRI.
   Persistent low grade fever
 possible source are lungs. Small left
   pleural effusion but doubt empyema or active pneumonia. If spikes,
   would broaden antibiotic coverage.
   Acute respiratory failure
 improved, still O2 dependent, extubated on
   rounds. [**Month (only) 51**] benefit from further diuresis.
   Plan discussed with team. Full Code. Mother has been updated
   frequently. Patient is critically ill. 45 minutes CCT.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2108-12-26**] 14:59 ------

2108-12-27 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Sugita Titanium aneursym clips (5); paperwork faxed to MRI - cleared
   for MRI
   - extubated, + secretions, frequent suction
   This morning pt is awake and responding appropriately to questions.
   She denies pain, shortness of breath, nausea, confusion.  She complains
   of hunger and thirst.
   Allergies:
   Tetracycline
   Unknown;
   Penicillins
   Rash;
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Clindamycin
   Rash;
   Cephalosporins
   Rash;
   Macrolide Antibiotics
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2108-12-24**] 12:30 PM
   Penicillin G potassium - [**2108-12-27**] 04:15 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2108-12-26**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2108-12-26**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-12-27**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.7
C (98
   HR: 114 (85 - 124) bpm
   BP: 146/78(98) {129/69(88) - 163/87(113)} mmHg
   RR: 27 (11 - 33) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 92.5 kg (admission): 94.1 kg
   Height: 65 Inch
             Total In:
                                                                  1,403 mL
                                                                    171 mL
   PO:
             TF:
                                                                    550 mL
   IVF:
                                                                    734 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                  2,535 mL
                                                                    340 mL
   Urine:
                                                                  2,335 mL
                                                                    340 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,132 mL
                                                                   -169 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 847 (847 - 847) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 23
   PIP: 6 cmH2O
   SpO2: 93%
   ABG: 7.48/35/214/27/3
   Ve: 8.9 L/min
   PaO2 / FiO2: 428
   Physical Examination
   Gen: well appearing female, flat affect, wearing face mask
   Lungs: clear anteriorly, unable to sit forward for examination
   CV: RRR, Nl S1 and S2.  no r/g/m
   Abd: soft, non distended, non tender.  ABS
   Ext: wwp.  2+ DP pulses, no c/c/e
   Neuro: PERRL, A&OX3.
   Labs / Radiology
   472 K/uL
   11.9 g/dL
   116 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.5 mEq/L
   13 mg/dL
   99 mEq/L
   136 mEq/L
   34.6 %
   18.0 K/uL
         [image002.jpg]
                             [**2108-12-25**]  08:24 AM
                             [**2108-12-25**]  05:08 PM
                             [**2108-12-26**]  02:56 AM
                             [**2108-12-26**]  03:09 AM
                             [**2108-12-26**]  06:48 AM
                             [**2108-12-26**]  11:14 AM
                             [**2108-12-26**]  01:03 PM
                             [**2108-12-26**]  04:15 PM
                             [**2108-12-26**]  04:33 PM
                            [**2108-12-27**]  04:36 AM
   WBC
   18.7
   18.0
   Hct
   33.1
   34.6
   Plt
   349
   472
   Cr
   0.7
   0.7
   0.6
   0.7
   TCO2
   31
   32
   33
   30
   28
   27
   Glucose
   115
   139
   140
   139
   116
   Other labs: PT / PTT / INR:15.8/30.6/1.4, Differential-Neuts:78.0 %,
   Band:0.0 %, Lymph:17.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.2
   mmol/L, Ca++:9.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Imaging: no new imaging
   Microbiology: Catheter Tip - no growth
   Sputum - yeast
   BCX all negative to date
   Assessment and Plan
   46 yoF presenting with 24-26 hours of HA, N/V and found to have
   evidence of bacterial meningitis on OSH w/u of agitation and labored
   respiratory status.
   #. Group B Strep Meningitis: Pan-sensitive on OSH cultures. Pt
   currently on [**Doctor Last Name **]. CT abdomen/pelvis negative for [**Last Name (un) **]. No source
   identified at this point.
   - f/u ID recs
 would like MR head to r/o phlegmon given h/o prior
   operation
   - f/u [**Hospital1 609**] records RE: brain coils for previous aneurysm surgery.
   Surgery done by Dr. [**First Name4 (NamePattern1) 2954**] [**Last Name (NamePattern1) **]
 4mm clips compatible with MRI. Office
   [**Telephone/Fax (1) 12021**]. Nurse [**Last Name (Titles) 1035**] [**Telephone/Fax (1) 12022**] pager [**Numeric Identifier 12023**].
   #. RESPIRATORY STATUS: was on vent for "airway protection" with altered
   MS; had increasing O2 requirement and was fighting the vent 12/6.
   Likely components of PNA and fluid overload influencing respiratory
   status. Pt satting well on CPAP yesterday. Agitation improved with
   addition of Diazepam.  Continues to have increased sputum production
   requiring suction.
   - 2 view CXR, pt at risk of VAP/HAP - though difficult to distinguish
   fromf luid overload
   - follow I/Os, for goal diuresis 1L
   #AMS - Pt has multiple reasons for altered mental status, including
   active meningitis.  Possibly was withdrawing from benzos and now on 5mg
   Diazepam qid.  Mental status has been improving.
   - MRI to look for phlegmon
   - avoid sedating and/or altering medications
   - Wean diazepam when mental status improves
   #. UTI: UCx positive from OSH. UCx negative here. GBS UTI: on [**Doctor Last Name **].
   #. QTC PROLONGATION ON OSH EKG:
   - resolved
   - check ECG prior to QTC prolonging medications
   #. METFORMIN: unclear why on metformin, whether from DM or PCOS. HbA1C
   6.0. FS 110s-150.
   -- continue RISS, hold metformin
   #. HOME MEDS: will hold gabapentin, oxycodone, sertraline
   - f/u with PCP regarding [**Name9 (PRE) **] and medications
   #. NUTRITION: Reg diet
   #. ACCESS: L PICC
   # PPX
 DVT: Heparin SC
   .             Bowel: Colace, Senna, Bisacodyl, Famotidine
   #. CODE: full code
   #. DISPO: call out to the floor if remains stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2108-12-21**] 04:00 PM
   PICC Line - [**2108-12-23**] 03:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2108-12-27 09:15:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2108-12-26**] 12:13 PM
   Extubated uneventfully yesterday
   Desaturated to 82% overnight on 15L high flow O2
   Required suctioning
                   History obtained from Patient
   Allergies:
   Tetracycline
   Unknown;
   Penicillins
   Rash;
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Clindamycin
   Rash;
   Cephalosporins
   Rash;
   Macrolide Antibiotics
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2108-12-24**] 12:30 PM
   Penicillin G potassium - [**2108-12-27**] 08:30 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2108-12-26**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2108-12-26**] 09:00 PM
   Other medications:
   Reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-12-27**] 09:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.3
C (99.1
   HR: 113 (85 - 124) bpm
   BP: 145/80(92) {145/80(92) - 145/80(92)} mmHg
   RR: 29 (16 - 33) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 89.5 kg (admission): 94.1 kg
   Height: 65 Inch
             Total In:
                                                                  1,403 mL
                                                                    241 mL
   PO:
             TF:
                                                                    550 mL
   IVF:
                                                                    734 mL
                                                                    241 mL
   Blood products:
   Total out:
                                                                  2,535 mL
                                                                    500 mL
   Urine:
                                                                  2,335 mL
                                                                    500 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,132 mL
                                                                   -259 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 847 (847 - 847) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 38%
   RSBI: 23
   PIP: 6 cmH2O
   SpO2: 95%
   ABG: 7.48/35/214/27/3
   Ve: 8.9 L/min
   PaO2 / FiO2: 563
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.9 g/dL
   472 K/uL
   116 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.5 mEq/L
   13 mg/dL
   99 mEq/L
   136 mEq/L
   34.6 %
   18.0 K/uL
        [image002.jpg]
                             [**2108-12-25**]  08:24 AM
                             [**2108-12-25**]  05:08 PM
                             [**2108-12-26**]  02:56 AM
                             [**2108-12-26**]  03:09 AM
                             [**2108-12-26**]  06:48 AM
                             [**2108-12-26**]  11:14 AM
                             [**2108-12-26**]  01:03 PM
                             [**2108-12-26**]  04:15 PM
                             [**2108-12-26**]  04:33 PM
                            [**2108-12-27**]  04:36 AM
   WBC
   18.7
   18.0
   Hct
   33.1
   34.6
   Plt
   349
   472
   Cr
   0.7
   0.7
   0.6
   0.7
   TCO2
   31
   32
   33
   30
   28
   27
   Glucose
   115
   139
   140
   139
   116
   Other labs: PT / PTT / INR:15.8/30.6/1.4, Differential-Neuts:78.0 %,
   Band:0.0 %, Lymph:17.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.2
   mmol/L, Ca++:9.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 MENINGITIS, BACTERIAL
 PNEUMONIA, ASPIRATION
 IMPAIRED SKIN INTEGRITY
   Acute respiratory Failure
 extubated, still requiring high flow O2
   GBS Meningitis
 c/w Pen G. Source unclear, MRI head pending
   Low grade fever
 possible pneumonia, stable leukocytosis. Low
   threshold to broaden coverage
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2108-12-21**] 04:00 PM
   PICC Line - [**2108-12-23**] 03:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU, may be stable to transfer to floor later today
   Total time spent: 35 minutes